2106-01-28 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Doctor First Name **] placed strong dobhoff, started TFs
   - was not responding to lasix, tried higher doses to 160 mg iv,
   chlorothiazide + metolazone; wrote for albumin (thought he was getting
   it already but he wasn't)
   - couldn't lie flat and dropped sats to 80s when supine so didn't get
   CT
   - had delerium overnight, was calling for his mother and father
   - [**Name (NI) **] 7.23/76 this a.m. -> abg
   - told me and nurse that he didn't want the treatments/needle sticks,
   instead wanted to be made comfortable, "let me go.", understand that
   this would mean that he would die, was appropriate and A/O to person,
   year, ~location (rehab),
 PICC LINE - START [**2106-1-27**] 08:19 AM
 BLOOD CULTURED - At [**2106-1-27**] 06:00 PM
   X1
 BLOOD CULTURED - At [**2106-1-28**] 01:30 AM
   X1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-28**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-28**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 96 (70 - 102) bpm
   BP: 109/53(66) {100/50(64) - 134/67(84)} mmHg
   RR: 24 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
                                                                  2,684 mL
                                                                  1,035 mL
   PO:
           TF:
           75 mL
   IVF:
                                                                  1,306 mL
                                                                    150 mL
   Blood products:
   100 mL
   Total out:
                                                                    935 mL
                                                                    230 mL
   Urine:
                                                                    935 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,749 mL
                                                                    805 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.25/71/104/26/0
   PaO2 / FiO2: 208
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.4 g/dL
   126 mg/dL
   3.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   117 mg/dL
   103 mEq/L
   140 mEq/L
   28.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2106-1-27**]  10:45 AM
                             [**2106-1-28**]  01:18 AM
                             [**2106-1-28**]  06:15 AM
   WBC
   8.1
   Hct
   28.3
   Plt
   220
   Cr
   3.4
   TCO2
   33
   33
   Glucose
   126
   Other labs: PT / PTT / INR:44.7/72.0/4.8, Lactic Acid:0.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   77 yo male dCHF, CAD s/p CABG, afib, CKD4, coagulopathy (factor V
   inhibitor) who has had a protracted hospital course and is now being
   transferred to the MICU for altered mental status and concern for
   hypercarbic respiratory failure
   # Altered Mental Status: patient was initially found significantly
   somnolent, almost obtunded and responding only to sternal rub. He was
   initially found to be markedly hypoxic when his oxygen was taken off.
   Possible causes include hypoxia, hypercarbia, infection, uremia or
   ICH.  His mental status has improved throughout the morning without any
   intervention except replacing his O2.  Hypernatremia may also be
   contributing as well
   - will repeat ABG, if still significantly hypercarbic, can consider
   placement on BiPAP to help correct the hypercarbia partially, though he
   is DNI
   - will check UA/culture and blood culture for r/o infection
   - family does not want to pursue HD; can attempt to continue diuresis
   gently given his effusions, though he appears intravascularly volume
   deplete at this time.
   - continue nasal cannula- maintain O2>95%
   - will hold off on CT head currently; no focal neuro deficits noted on
   exam and mental status has improved.
   - will give 1L D5W over 10 hrs with repeat Na check this evening
   # Acute on Chronic Diastolic HF: patient with significant edema,
   pleural effusions, but possibly intravascularly volume deplete.
   - will give furosemide 40 mg IV BID for goal -500cc/-1L; will start
   albumumin 25 gm Q8H to help with diuresis as well.  Also will add
   metalozone
   - per cards, can consider cardiac CT looking for restrictive process,
   though not necessarily indicated at this time
   # Coagulopathy: based on labs from OSH, likely have Factor V
   inhibitor.  Epistaxis now resolved.  Patient being followed by
   hematology here, repeat Factor V inhibitor pending.  No clear reason
   why patient should have developed this- usually associated with surgery
   (particuarly cardiac) but patient's CABG was >6 months ago.  Also,
   associated with underlying malignancy as well, though no clear
   malignancy at this time.
   - f/u  heme recs
   - will continue to give Vitamin K for goal INR<2 though unlikely to
   make any benefit given the reason for his coagulopathy.
   # Hypoxia: persistent O2 requirement, likely component of pleural
   effusion vs volume overload.  No obvious PNA on CXR.  although PE is
   possible, with patient's elevated INR this is unlikely and we could not
   anticoagulate anyway
   - continue diuresis as above
   - maintain nasal cannula for sat >95%
   # Epistaxis: stable.  ENT has signed off
   # Paroxsymal Afib: currently rate controlled.  not on anticoagulation
   given coagulatopathy
   - cont metoprolol and diltiazem at current dose for rate control
   # C.Diff: C-diff positive at OSH. Diarrhea appears to have improved.
   - cont PO vanco 250 for 2wks after d/c of cefazolin (last day [**2-6**])
   - cont metamucil for bulking
   # CAD: Hx of CABG, no evidence of active issue
   - cont lipitor, BB.
   - holding ASA in setting of epistaxis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 COAGULOPATHY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2106-1-28**] 12:00 AM 10 mL/hour
   TPN without Lipids - [**2106-1-28**] 02:39 AM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-27**] 08:19 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2106-01-28 07:57:00 Physician Attending Progress Note
Chief Complaint: hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   77 yo man with CABG [**5-16**] complicated by acquired factor V deficiency,
   severe diastolic CHF, admitted with recurrent infections, malnutrition,
   C. difficile colitis. Transferred to ICU [**2105-1-27**] for hypercarbic
   respiratory failure in the setting of receiving ativan.
   24 Hour Events:
   -more somnolent this morning, ABG with worsening hypercarbia
   -patient requesting to be CMO yesterday
   -unable to diurese despite lasix drip, diuril, metolazone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2106-1-28**] 06:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-28**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.4
C (95.8
   HR: 96 (70 - 102) bpm
   BP: 109/53(66) {100/50(64) - 134/67(84)} mmHg
   RR: 24 (20 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
                                                                  2,684 mL
                                                                  1,077 mL
   PO:
           TF:
           79 mL
   IVF:
                                                                  1,306 mL
                                                                    158 mL
   Blood products:
   100 mL
   Total out:
                                                                    935 mL
                                                                    230 mL
   Urine:
                                                                    935 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,749 mL
                                                                    847 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: 7.25/71/104/26/0
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Thin, bitemporal wasting
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): self,
   place (rehab), Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   220 K/uL
   126 mg/dL
   3.4 mg/dL
   26 mEq/L
   4.5 mEq/L
   117 mg/dL
   103 mEq/L
   140 mEq/L
   28.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2106-1-27**]  10:45 AM
                             [**2106-1-28**]  01:18 AM
                             [**2106-1-28**]  06:15 AM
   WBC
   8.1
   Hct
   28.3
   Plt
   220
   Cr
   3.4
   TCO2
   33
   33
   Glucose
   126
   Other labs: PT / PTT / INR:44.7/72.0/4.8, Lactic Acid:0.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   #worsening hypercarbia
   -patient did not receive any sedatives overnight
   -increase lasix drip to maximum dose, continue diuril and metolazone,
   continue SPA
   -switch all medications to oral to minimize intake
   -discuss with family a thoracentesis-which would be a risky procedure
   given his coagulopathy and difficulty correcting with FFP
   -continue BiPAP for now
   #altered mental status
   -likely in setting of hypercarbia which is likely exacerbated by ativan
   administration. Delirium likely a component
   -avoid opiates and benzodiazepines unless patient is made CMO
   -receiving vitamin supplementation
   #severe diastolic CHF
   -will need aggressive diuresis but we are having difficulty using
   diuretics given his acute on chronic renal failure
   -inotropes not useful in the setting of diastolic heart failure
   -will discuss with renal if we are able to ultrafiltrate through
   peripheral large bore access
   -continue diltiazem and metoprolol
   #acute on chronic renal failure
   -may be in setting of poor forward flow
   #acquired factor V deficiency
   -factor V levels improving
    -change Vitamin K to enteral
   #malnutrition
   -stop TPN given large fluid intake
   # C. difficile colitis
   -on oral vancomycin
   #dirty UA
   -empiric levaquin enterally while awaiting cultures
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2106-1-28**] 12:00 AM 10 mL/hour
   TPN without Lipids - [**2106-1-28**] 02:39 AM 70.[**Telephone/Fax (5) 719**] mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2106-1-27**] 08:19 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: will need PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI.  Family discussion ongoing.
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient and agree with assessment and plan
   as above with the following modifications/emphasis:
   Overnight, urine output decreased and creatinine rising.  Respiratory
   pattern worsening with hypercarbia on ABG
   Vitals as above
   Gen: Cachetic, tachyapneic
   Chest: crackles
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: +2 edema
   Labs as above
   Assessment:
   1)       Respiratory Failure
 hypercarbic
   2)       Renal Failure
   3)       Heart Failure
   4)       Pleural Effusions
   Disussion/Plan: I had a long discussion with family today about current
   condition and options for treatment.  In short, I believe that
   medically we could attempt hemodialysis and also thoracentesis to see
   if that will reverse the respiratory decompensation while maintaining
   patient on bipap.  The family has already discussed code status that is
   DNR/DNI and do not wish that to change.  Moreover, after discussing the
   next medical options and considering his long and steady decline since
   last summer with recurrent infections, worsening nutrition, and
   multiple organ injury, they would like to pursue a pathway of comfort
   care and related they believe the patient would want this path if he
   were able to make his own decision.  We will not escalate care and the
   patient
s daughter is arriving tomorrow so we will continue bipap for
   now.  After the daughter arrives, will move toward comfort care.
   Time Spent: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2106-1-28**] 07:02 PM ------

2106-01-29 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -- further disucssion with family regarding prognosis and goals of
   care; they want CMO, but to try to maintain holding pattern until
   daughter can come in at 4P on Friday
   -- cont on BiPAP throughout the day; having signficant secretions;
   given 0.5 of morphine and scopalamine patch overnight
   -- BPs low, started on levophed overnight to maintain MAP>55
   -- diuretics stopped; despite max doses, patient only made about
   10cc/hr
   -- TPN stopped; all IV meds transitioned to PO if possible
 NON-INVASIVE VENTILATION - START [**2106-1-28**] 08:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2106-1-29**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-29**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 90 (74 - 113) bpm
   BP: 98/64(70) {77/31(45) - 134/69(77)} mmHg
   RR: 20 (17 - 36) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
                                                                  2,085 mL
                                                                    446 mL
   PO:
           TF:
                                                                    280 mL
                                                                    194 mL
   IVF:
                                                                    436 mL
                                                                     93 mL
   Blood products:
                                                                    300 mL
                                                                    100 mL
   Total out:
                                                                    347 mL
                                                                      5 mL
   Urine:
                                                                    347 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (470 - 726) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.1 g/dL
   98 mg/dL
   3.9 mg/dL
   27 mEq/L
   4.8 mEq/L
   127 mg/dL
   101 mEq/L
   138 mEq/L
   24.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-1-27**]  10:45 AM
                             [**2106-1-28**]  01:18 AM
                             [**2106-1-28**]  06:15 AM
                             [**2106-1-28**]  04:16 PM
                             [**2106-1-29**]  04:53 AM
   WBC
   8.1
   7.3
   Hct
   28.3
   24.8
   Plt
   220
   219
   Cr
   3.4
   3.6
   3.9
   TCO2
   33
   33
   Glucose
   126
   98
   Other labs: PT / PTT / INR:44.7/72.0/4.8, Lactic Acid:0.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   77 yo male dCHF, CAD s/p CABG, afib, CKD4, coagulopathy (factor V
   inhibitor) who has had a protracted hospital course and is now being
   transferred to the MICU for altered mental status and concern for
   hypercarbic respiratory failure
   # Altered Mental Status: patient was initially found significantly
   somnolent, almost obtunded and responding only to sternal rub. He was
   initially found to be markedly hypoxic when his oxygen was taken off.
   Possible causes include hypoxia, hypercarbia, infection, uremia or
   ICH.  His mental status has improved throughout the morning without any
   intervention except replacing his O2.  Hypernatremia may also be
   contributing as well
   - will repeat ABG, if still significantly hypercarbic, can consider
   placement on BiPAP to help correct the hypercarbia partially, though he
   is DNI
   - will check UA/culture and blood culture for r/o infection
   - family does not want to pursue HD; can attempt to continue diuresis
   gently given his effusions, though he appears intravascularly volume
   deplete at this time.
   - continue nasal cannula- maintain O2>95%
   - will hold off on CT head currently; no focal neuro deficits noted on
   exam and mental status has improved.
   - will give 1L D5W over 10 hrs with repeat Na check this evening
   # Acute on Chronic Diastolic HF: patient with significant edema,
   pleural effusions, but possibly intravascularly volume deplete.
   - will give furosemide 40 mg IV BID for goal -500cc/-1L; will start
   albumumin 25 gm Q8H to help with diuresis as well.  Also will add
   metalozone
   - per cards, can consider cardiac CT looking for restrictive process,
   though not necessarily indicated at this time
   # Coagulopathy: based on labs from OSH, likely have Factor V
   inhibitor.  Epistaxis now resolved.  Patient being followed by
   hematology here, repeat Factor V inhibitor pending.  No clear reason
   why patient should have developed this- usually associated with surgery
   (particuarly cardiac) but patient's CABG was >6 months ago.  Also,
   associated with underlying malignancy as well, though no clear
   malignancy at this time.
   - f/u  heme recs
   - will continue to give Vitamin K for goal INR<2 though unlikely to
   make any benefit given the reason for his coagulopathy.
   # Hypoxia: persistent O2 requirement, likely component of pleural
   effusion vs volume overload.  No obvious PNA on CXR.  although PE is
   possible, with patient's elevated INR this is unlikely and we could not
   anticoagulate anyway
   - continue diuresis as above
   - maintain nasal cannula for sat >95%
   # Epistaxis: stable.  ENT has signed off
   # Paroxsymal Afib: currently rate controlled.  not on anticoagulation
   given coagulatopathy
   - cont metoprolol and diltiazem at current dose for rate control
   # C.Diff: C-diff positive at OSH. Diarrhea appears to have improved.
   - cont PO vanco 250 for 2wks after d/c of cefazolin (last day [**2-6**])
   - cont metamucil for bulking
   # CAD: Hx of CABG, no evidence of active issue
   - cont lipitor, BB.
   - holding ASA in setting of epistaxis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HEART FAILURE (CHF), SYSTOLIC AND DIASTOLIC, ACUTE ON CHRONIC
 COAGULOPATHY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2106-1-28**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-27**] 08:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2106-01-29 07:49:00 Physician Attending Progress Note
Chief Complaint: hypercarbic respiratory failure
   HPI: 77 yo man with CABG [**5-16**] complicated by acquired factor V
   deficiency, severe diastolic CHF, admitted with recurrent infections,
   malnutrition, C. difficile colitis. Transferred to ICU [**2105-1-27**] for
   hypercarbic respiratory failure in the setting of receiving ativan.
   24 Hour Events:
 Patient continued to require BiPAP
 levophed started for hypotension with plan to keep patient alive
   until his daughter arrives from [**Name (NI) **] at 4PM, then plan to transition
   to comfort care
 scopolamine patch initiated for oral secretions
 diuretics stopped as patient was refractory, with now anuria and
   rising Cr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2106-1-29**] 05:15 AM
   Other medications:
   Lopressor and diltiazem on hold
   Vancomycin 250mg po q6hr
   Albuterol/atrovent nebs
   Atorvastatin 80mg daily
   Citalopram 10mg daily
   Thiamine 100mg IV daily
   Albumin 25gm IV q8hr
   Vitamin C
   Levaquin 250mg daily
   Vitamin K 5mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-29**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 90 (74 - 113) bpm
   BP: 98/64(70) {77/31(45) - 134/69(77)} mmHg
   RR: 20 (17 - 36) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
                                                                  2,085 mL
                                                                    447 mL
   PO:
           TF:
                                                                    280 mL
                                                                    194 mL
   IVF:
                                                                    436 mL
                                                                     93 mL
   Blood products:
                                                                    300 mL
                                                                    100 mL
   Total out:
                                                                    347 mL
                                                                      5 mL
   Urine:
                                                                    347 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (470 - 726) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Dullness : at bases), (Breath Sounds:
   Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows commands, states he is comfortable
   Labs / Radiology
   8.1 g/dL
   219 K/uL
   98 mg/dL
   3.9 mg/dL
   27 mEq/L
   4.8 mEq/L
   127 mg/dL
   101 mEq/L
   138 mEq/L
   24.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-1-27**]  10:45 AM
                             [**2106-1-28**]  01:18 AM
                             [**2106-1-28**]  06:15 AM
                             [**2106-1-28**]  04:16 PM
                             [**2106-1-29**]  04:53 AM
   WBC
   8.1
   7.3
   Hct
   28.3
   24.8
   Plt
   220
   219
   Cr
   3.4
   3.6
   3.9
   TCO2
   33
   33
   Glucose
   126
   98
   Other labs: PT / PTT / INR:44.7/72.0/4.8, Lactic Acid:0.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   77 yo man with severe diastolic CHF, chronic malnutrition, and now
   anuric renal failure and hypercarbic respiratory failure.
   Transitioning to comfort care when patient
s daughter arrives.
   -continue levophed and BiPAP until patient
s daughter here
   -continue antibiotics for now
   -continue tube feeds as per family
s request
   -morphine prn
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2106-1-28**] 08:00 PM 30 mL/hour
   Glycemic Control:
   Lines: PICC
   PICC Line - [**2106-1-27**] 08:19 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: PPI
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as described above with the following
   modifications:
   Overnight, blood pressure decreased requiring vasopressor support with
   ultimate goal of comfort but keeping patient stable in anticipation of
   daughter coming from [**Name (NI) 473**]
   Vitals as above
   On exam, emaciated, on bipap but appears comfortable
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: edema
   Assessment:
   1)       respiratory failure
   2)       shock
   3)       malnutrition
   Plan: Family expressed wishes to pursue comfort care after daughter
   arrival as described in yesterday
s note.  Will continue current
   therapy for now.
   Time Spent: 20 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2106-1-29**] 03:22 PM ------

2106-01-30 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 77 yo male dCHF, CAD s/p CABG, afib, CKD4,
   coagulopathy (factor V inhibitor) who has had a protracted hospital
   course and is now being transferred to the MICU for altered mental
   status and concern for hypercarbic respiratory failure
   24 Hour Events:
   [**1-28**]
   -- further disucssion with family regarding prognosis and goals of
   care; they want CMO, but to try to maintain holding pattern until
   daughter can come in at 4P on Friday
   -- cont on BiPAP throughout the day; having signficant secretions;
   given 0.5 of morphine and scopalamine patch overnight
   -- BPs low, started on levophed overnight to maintain MAP>55
   -- diuretics stopped; despite max doses, patient only made about
   10cc/hr
   -- TPN stopped; all IV meds transitioned to PO if possible
   *******************************************************
   [**1-29**]
   -- Daughter arrived at 4pm, patient taken off BIPAP and pressors
   d/c'd.  All non-essential meds stopped.  Patient did well throughout
   night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-1-30**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.5
C (95.9
   HR: 88 (71 - 93) bpm
   BP: 94/39(53) {79/39(51) - 110/59(67)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
                  Total In:
                                                                  1,140 mL
                  PO:
                  TF:
                                                                    530 mL
   IVF:
                                                                    390 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,130 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 615 (516 - 615) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 8.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.1 g/dL
   98 mg/dL
   3.9 mg/dL
   27 mEq/L
   4.8 mEq/L
   127 mg/dL
   101 mEq/L
   138 mEq/L
   24.8 %
   7.3 K/uL
        [image002.jpg]
                             [**2106-1-27**]  10:45 AM
                             [**2106-1-28**]  01:18 AM
                             [**2106-1-28**]  06:15 AM
                             [**2106-1-28**]  04:16 PM
                             [**2106-1-29**]  04:53 AM
   WBC
   8.1
   7.3
   Hct
   28.3
   24.8
   Plt
   220
   219
   Cr
   3.4
   3.6
   3.9
   TCO2
   33
   33
   Glucose
   126
   98
   Other labs: PT / PTT / INR:44.7/72.0/4.8, Lactic Acid:0.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   77 yo male dCHF, CAD s/p CABG, afib, CKD4, coagulopathy (factor V
   inhibitor) who has had a protracted hospital course and is now being
   transferred to the MICU for altered mental status and concern for
   hypercarbic respiratory failure
   # Goals of care: patient
s family discussed wanting patient to be CMO.
   Awaiting for daughter to return from out of the country.  Will use
   BiPAP and levophed as bridge until then
   - can try morphine 0.5 mg IV PRN for respiratory distress
   - start scopalmine patch for secretions
   # Acute on Chronic Diastolic HF: significantly volume overloaded, but
   no response to diuretics.
   - minimize fluid in; stopped TPN
   - no further diuretics
   # Hypotension: patient
s BP low overnight; VBG without worsening
   acidosis last night.  Possibly septic physiology from ? PNA vs UTI
   - started on levophed overnight to maintain MAP >55 while awaiting for
   daughter to arrive
   - no IVFs
   # Coagulopathy: likely has Factor V inhibitor.  Epistaxis now
   resolved.  Patient being followed by hematology here, repeat Factor V
   inhibitor pending.  No clear reason why patient should have developed
   this- usually associated with surgery (particuarly cardiac) but
   patient's CABG was >6 months ago.  Also, associated with underlying
   malignancy as well, though no clear malignancy at this time.
   - stop vitamin K given no improvement
   # Hypoxia: persistent O2 requirement, likely component of pleural
   effusion vs volume overload.  No obvious PNA on CXR.  although PE is
   possible, with patient's elevated INR this is unlikely and we could not
   anticoagulate anyway
   - on BiPAP for hypercarbia as bridge to CMO once daughter arrives
   # Epistaxis: stable.  ENT has signed off
   # Paroxsymal Afib: holding meds at this time given lowish BP
   # C.Diff: C-diff positive at OSH. Diarrhea appears to have improved.
   - cont PO vanco 250 for 2wks after d/c of cefazolin (last day [**2-6**])
   - cont metamucil for bulking
   # CAD: Hx of CABG, no evidence of active issue
   - cont lipitor, BB.
   - holding ASA in setting of epistaxis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-1-27**] 08:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: